### PR TITLE
feat: joint continuity of the continuous functional calculus

### PR DESCRIPTION
**Pull request by j-loreaux**
---

- [x] depends on: #25695
- [x] depends on: #25634
- [x] depends on: #25827 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Continuity.lean [hunk 1]
```diff
@@ -405,6 +501,48 @@ theorem Continuous.cfcₙ_fun [TopologicalSpace X] (f : X → R → R) (a : A)
...
+    [IsTopologicalSemiring R] [ContinuousStar R] [NonUnitalRing A] [StarRing A]
+    [MetricSpace A] [Module R A] [SMulCommClass R A A] [IsScalarTower R A A]
+    [NonUnitalIsometricContinuousFunctionalCalculus R A p]
+
+variable (R) in
+open UniformOnFun in
+open scoped NonUnitalContinuousFunctionalCalculus in
+/-- The function `f ↦ cfcₙ f a` is Lipschitz with constant with constant 1 with respect to
+supremum metric (on `R →ᵤ[{quasispectrum R a}] R`) on those functions which are continuous on
+the quasispectrum and map zero to itself. -/
```
Comment (dupuisf) [inline Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Continuity.lean]:
```suggestion
/-- The function `f ↦ cfcₙ f a` is Lipschitz with constant 1 with respect to
supremum metric (on `R →ᵤ[{quasispectrum R a}] R`) on those functions which are continuous on
the quasispectrum and map zero to itself. -/
```

File: Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Continuity.lean [hunk 2]
```diff
@@ -405,6 +501,48 @@ theorem Continuous.cfcₙ_fun [TopologicalSpace X] (f : X → R → R) (a : A)
...
+    rw [cfcₙ_apply .., cfcₙ_apply .., isometry_cfcₙHom (R := R) a ha |>.edist_eq]
+    simp only [ENNReal.coe_one, one_mul]
+    rw [← ContinuousMapZero.isometry_toContinuousMap.edist_eq,
+      edist_continuousRestrict_of_singleton hf hg]
+  · simpa [cfcₙ_apply_of_not_predicate a ha] using LipschitzWith.const' 0 |>.lipschitzOnWith
+
+open UniformOnFun in
+open scoped ContinuousFunctionalCalculus in
+/-- The function `f ↦ cfcₙ f a` is Lipschitz with constant with constant 1 with respect to
+supremum metric (on `R →ᵤ[{s}] R`) on those functions which are continuous on a set `s` containing
```
Comment (dupuisf) [inline Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Continuity.lean]:
```suggestion
/-- The function `f ↦ cfcₙ f a` is Lipschitz with constant 1 with respect to
supremum metric (on `R →ᵤ[{s}] R`) on those functions which are continuous on a set `s` containing
```

File: Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Continuity.lean [hunk 3]
```diff
@@ -114,6 +143,46 @@ theorem Continuous.cfc_fun [TopologicalSpace X] (f : X → R → R) (a : A)
...
+    simp only
+    rw [cfc_apply .., cfc_apply .., isometry_cfcHom (R := R) a ha |>.edist_eq]
+    simp only [ENNReal.coe_one, one_mul]
+    rw [edist_continuousRestrict_of_singleton hf hg]
+  · simpa [cfc_apply_of_not_predicate a ha] using LipschitzWith.const' 0 |>.lipschitzOnWith
+
+open UniformOnFun in
+open scoped ContinuousFunctionalCalculus in
+/-- The function `f ↦ cfc f a` is Lipschitz with constant with constant 1 with respect to
+supremum metric (on `R →ᵤ[{s}] R`) on those functions which are continuous on a set `s` containing
```
Comment (dupuisf) [inline Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Continuity.lean]:
```suggestion
/-- The function `f ↦ cfc f a` is Lipschitz with constant 1 with respect to
supremum metric (on `R →ᵤ[{s}] R`) on those functions which are continuous on a set `s` containing
```

File: Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Continuity.lean [hunk 4]
```diff
@@ -114,6 +143,46 @@ theorem Continuous.cfc_fun [TopologicalSpace X] (f : X → R → R) (a : A)
...
+
+variable {X R A : Type*} {p : A → Prop} [CommSemiring R] [StarRing R] [MetricSpace R]
+    [IsTopologicalSemiring R] [ContinuousStar R] [Ring A] [StarRing A]
+    [MetricSpace A] [Algebra R A] [IsometricContinuousFunctionalCalculus R A p]
+
+variable (R) in
+open UniformOnFun in
+open scoped ContinuousFunctionalCalculus in
+/-- The function `f ↦ cfc f a` is Lipschitz with constant with constant 1 with respect to
+supremum metric (on `R →ᵤ[{spectrum R a}] R`) on those functions which are continuous on
```
Comment (dupuisf) [inline Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Continuity.lean]:
```suggestion
/-- The function `f ↦ cfc f a` is Lipschitz with constant 1 with respect to
supremum metric (on `R →ᵤ[{spectrum R a}] R`) on those functions which are continuous on
```

File: Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Continuity.lean [hunk 5]
```diff
@@ -25,22 +26,50 @@ predicate `p` and their spectra are collectively contained in a compact set on w
...
+
++ `tendsto_cfc_fun`: If `F : X → R → R` tends to `f : R → R` uniformly on the spectrum of `a`, and
+  all these functions are continuous on the spectrum, then `fun x ↦ cfc (F x) a` tends
+  to `cfc f a`.
++ `Filter.Tendsto.cfc`: If `f : 𝕜 → 𝕜` is continuous on a compact set `s` and `a : X → A` tends to
+  `a₀ : A` along a filter `l` (such that eventually `a x` satisfies the predicate `p` associated to
+  `𝕜` and has spectrum contained in `s`, as does `a₀`), then `fun x ↦ cfc f (a x)` tends to
+  `cfc f a₀`.
++ `lipschitzWith_cfc_fun`: The function `f ↦ cfc f a` is Lipschitz with constant with constant 1
+  with respect to supremum metric (on `R →ᵤ[{spectrum R a}] R`) on those functions which are
```
Comment (dupuisf) [inline Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Continuity.lean]:
```suggestion
+ `lipschitzWith_cfc_fun`: The function `f ↦ cfc f a` is Lipschitz with constant 1
  with respect to supremum metric (on `R →ᵤ[{spectrum R a}] R`) on those functions which are
```

**Review by dupuisf — COMMENTED** [review]
The joys of copy/paste...!

**Comment by j-loreaux** [comment]
🤦 😆 I swear, I do actually read my own docstrings most of the time.

**Comment by j-loreaux** [comment]
This PR has been migrated to a fork-based workflow: https://github.com/leanprover-community/mathlib4/pull/26118
